Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zithromax
 
Attending: ___
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with hx of diffuse large 
B cell lymphoma (s/p 6 cycles R-CHOP) and MGUS (IgG Kappa, SPEP 
6%) who initially presented to ___ on ___ after a 
foreign body became lodged in his esophagus. He was eating steak 
at around 4.30pm that day and suddenly developed difficulty 
swallowing. He also reports that he started coughing shortly 
after, and produced somewhere between a teaspoon - tablespoon of 
blood. The patient has had ___ years of dysphagia, including 
multiple esophageal foreign bodies in the past and is s/p 2x 
esophageal dilatations approximately 5 and ___ years ago 
(diagnosis unclear). At the OSH they deferred bronchoscopy 
because the patient was found to be neutropenic. At that time 
they recommended transfer to ___. 

In the ED at ___, the patient was stable but having some 
difficulty tolerating his oral secretions, however this passed 
spontaneously. The patient was nevertheless admitted to ___ 
because of his neutropenia of unclear etiology.

The patient was seen in ___ clinic on ___. His PET CT 
in ___ revealed no FDG-avid lymphadenopathy but did reveal 
increased uptake in the prostate. A PSA level was drawn but not 
elevated. He was noted at that time to have a persistently 
elevated MCV and relative neutropenia and monocytosis concerning 
for an underlying myelodysplastic syndrome. At a follow up visit 
on ___ he was found to have worsening leukopenia (WBC 1.7 
with 15% neutrophils) and persistently elevated MCV (111-115). A 
bone marrow biopsy was performed at that time.
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
ECHO ___ EF >55%

*C1 R-CHOP ___
*C2 R-CHOP ___

ECHO ___ EF >55%

* Restaging PET-CT ___
IMPRESSION:  
Interval resolution of the retroperitoneal, pelvic and right
inguinal lymphadenopathy with no abnormal FDG uptake in any of
the residual lymph nodes.  

*C3 R-CHOP ___
*C4 R-CHOP ___

*ECHO ___ EF >55%

*C5 R-CHOP ___
*C6 R-CHOP ___

* Restaging PET-CT ___
IMPRESSION:  
1) No FDG avid lymphadenopathy 
2) Increased FDG uptake in the central left prostate - suggest
correlation with PSA levels.  

*ECHO ___ EF >55%

PAST MEDICAL/SURGICAL HISTORY:  
Paroxysmal Atrial fibrillation (CHADS2 score 4 in ___
Hypertension
Hypercholesterolemia
Transient Ischemic Attack (x2 episodes)
Diffuse large B cell lymphoma (s/p 6 cycles of R-CHOP, last 
ended ___
 
Social History:
___
Family History:
Father died at ___ due to a stroke.  Mother died at ___ due to
colon cancer.  No early CAD or sudden cardiac death.
 
Physical Exam:
========== PHYSICAL EXAM ON ADMISSION ==========
General: Well-appearing, energetic/interactive elderly man in 
NAD.
HEENT: Anicteric sclera, large ulcer on L lateral surface of 
tongue.
Neck: No lymphadenopathy or JVD.
CV: RRR w/o m/r/g.
Lungs: CTAB.
Abdomen: Soft, non-tender non-distended, normal BS, no 
organomegaly.
Ext: No cyanosis, clubbing or edema.
Neuro: Normal gait, cranial nerves II-XII grossly intact, moves 
all extremities symmetrically.

=========== PHYSICAL EXAM ON DISCHARGE ==========

Unchanged from admission less than 24 hours earlier.
 
Pertinent Results:
========== ADMISSION LABS ============

___ 10:40AM BONE MARROW  CD23-DONE CD33-DONE CD117-DONE 
CD45-DONE ___ KAPPA-DONE CD10-DONE CD13-DONE 
CD14-DONE CD15-DONE CD19-DONE CD20-DONE LAMBDA-DONE CD5-DONE
___ 10:40AM BONE MARROW  CD34-DONE CD3-DONE
___ 10:40AM BONE MARROW  IPT-DONE
___ 09:15AM   UREA N-28* CREAT-1.1 SODIUM-140 POTASSIUM-4.4 
CHLORIDE-106 TOTAL CO2-23 ANION GAP-15
___ 09:15AM   ALT(SGPT)-33 AST(SGOT)-30 LD(LDH)-238 ALK 
PHOS-107 TOT BILI-0.3
___ 09:15AM   TOT PROT-6.8 CALCIUM-9.9 MAGNESIUM-1.7
___ 09:15AM   PSA-1.0
___ 09:15AM   PEP-ABNORMAL B Free K-17.9 Free ___ Fr 
K/L-1.79* IgG-974 IgA-43* IgM-181
___ 09:15AM   WBC-1.7* RBC-3.12* HGB-11.7* HCT-34.5* 
MCV-111* MCH-37.5* MCHC-33.9 RDW-12.6
___ 09:15AM   NEUTS-15* BANDS-0 LYMPHS-56* MONOS-19* EOS-6* 
BASOS-1 ATYPS-3* ___ MYELOS-0
___ 09:15AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-1+
___ 09:15AM   PLT SMR-NORMAL PLT COUNT-168

========== IMAGING STUDIES ==========

CHEST XRAY PA & LATERAL (___):
Minimal left basilar atelectasis. No radiopaque foreign bodies.

BARIUM SWALLOW (___):
A small to moderate-sized hiatal hernia, similar to the prior 
examination, otherwise normal esophagram. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with hx of diffuse large B 
cell lymphoma s/p 6 cycles of R-CHOP (last cycle ended ___ 
and MGUS who presented to ___ ED with dysphagia arising in the 
setting of neutropenia of unclear origin.

# Dysphagia: Arose while eating steak. Pt admits that he eats 
too quickly and does not chew his food sufficiently, likely 
contributing. Furthermore, the patient has a history of chronic 
dysphagia s/p 2 prior esophageal dilatations. The patient's 
current episode of acute dysphagia self-resolved prior to being 
transferred to the floor. A barium swallow was performed and was 
normal except for a small hiatal hernia. Speech and swallow 
evaluation revealed no barriers to resuming a normal diet.

# Neutropenia: Cause of the patient's neutropenia is unclear - 
delayed rituximab toxicity vs myelodysplastic syndrome vs 
drug-induced myelosuppresion. Bone marrow biopsy performed on 
___ as an outpatient, results pending. Continued prophylactic 
acyclovir while inpatient but held Bactrim due to considerable 
risk of myelosuppresion from this drug. Administered 1 dose of 
neupogen prior to discharge and prescribed 10 days of Augmentin 
as prophylaxis due to the medium-large ulcer on the left lateral 
surface of his tongue as well as his history of small volume 
hemoptysis (suspicion for minor esophageal mucosal tear).

# Paroxysmal A-Fib / Prior TIA: The patient's home rivaroxaban, 
metoprolol and flecainide were continued during his 
hospitalization and he was discharged on all of these 
medications. No episodes of symptomatic A-Fib observed during 
his stay. Not placed on telemetry at any point during his stay.

========== TRANSITIONAL ISSUES ==========

# Neutropenia: The patient will require close follow up 
regarding management of his neutropenia. Bone marrow biopsy 
results pending. Patient is to see Dr. ___ in clinic on 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Oxide 280 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO QPM 
3. Flecainide Acetate 75 mg PO Q12H 
4. Rivaroxaban 15 mg PO DAILY 
5. Atorvastatin 40 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Sodium Chloride 1 gm PO BID 
9. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral qday 

 
Discharge Medications:
1. Atorvastatin 40 mg PO DAILY 
2. Flecainide Acetate 75 mg PO Q12H 
3. Magnesium Oxide 280 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO QPM 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Rivaroxaban 15 mg PO DAILY 
8. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral qday 
9. Lidocaine Viscous 2% 15 mL PO TID:PRN mouth sores / oral pain 
Duration: 1 Week 
RX ___ [FIRST-Mouthwash BLM] 400 
mg-400 mg-40 mg-25 mg-200 mg/30 mL Swish 15 mL in mouth for 30 
seconds then spit out. every four (4) hours Refills:*0
10. Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0
11. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
twice a day Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Esophageal foreign body (self-resolved)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on 
___ for difficulty swallowing, cough productive of a small 
amount of blood, and neutropenia. We performed diagnostic 
studies to ensure that you were able to swallow solids and 
liquids adequately. We also monitored you for signs of infection 
given your neutropenia. 

You were discharged on ___ once we were able to medically 
clear you to return home. It was a pleasure to take care of you 
during your hospital stay.

Sincerely,

Your ___ Team
 
Followup Instructions:
___